US04387238
Following the procedure of Example 1, monoethyl potassium epoxysuccinate (1.0 g) was successively treated with oxalyl chloride (0.75 g) and phenethylamine (1.3 g) to give 0.72 g of ethyl N-phenethyl-2,3-epoxysuccinamate (Compound No. 15) as colorless needles melting at 80°-82° C.

reactant | monoethyl potassium epoxysuccinate | 1.0 g | O1C(C(=O)O)C1C(=O)O.C(C)[K]
reactant | oxalyl chloride | 0.75 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | phenethylamine | 1.3 g | C(CC1=CC=CC=C1)N | C8H11N
product | ethyl N-phenethyl-2,3-epoxysuccinamate | 0.72 g | C(CC1=CC=CC=C1)NC(C1C(C(=O)OCC)O1)=O | C14H17NO4
